US08071608B2
(2S)-2-[1-(2-chloro-6-cyano-phenyl)pyrazolo[4,5-e]pyrimidin-4-yl]oxy-3-[(1R)-2-hydroxy-1-methyl-ethoxy]-N-(5-methylpyrazin-2-yl)propanamide Alternative method
Tetrabutylammonium fluoride 1M in THF (5.11 mL, 5.11 mmol) was added to (2S)-2-(1-(2-chloro-6-cyanophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy)-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide (Intermediate AZ1) (3.4 g, 5.11 mmol) and acetic acid (0.307 g, 5.11 mmol) in THF (35 mL). The resulting solution was stirred at 22° C. for 20 hours. It was quenched with NH4Cl solution (sat., 25 mL) and diluted with EtOAc (50 mL). The organic phase was washed with saturated sodium bicarbonate (25 mL), water (20 mL), brine (20 mL), dried (MgSO4) and evaporated. 6 The crude product was purified by flash silica chromatography, eluting with EtOAc to afford the product (2.23 g, 85%). This was crystallised from EtOAc (10 mL) and iso-hexane (6 mL) to give the desired product as a white crystalline powder (1.9 g, 73%) confirmed to be of the same crystalline form as that described previously.

reactant | Tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (2S)-2-(1-(2-chloro-6-cyanophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy)-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide | 5.11 mmol, 3.4 g | ClC1=C(C(=CC=C1)C#N)N1N=CC=2C1=NC=NC2O[C@H](C(=O)NC2=NC=C(N=C2)C)CO[C@@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C32H41ClN8O4Si
reactant | acetic acid | 5.11 mmol, 0.307 g | C(C)(=O)O | C2H4O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 5.11 mmol, 5.11 mL | C1CCOC1 | C4H8O
product | (2S)-2-[1-(2-chloro-6-cyano-phenyl)pyrazolo[4,5-e]pyrimidin-4-yl]oxy-3-[(1R)-2-hydroxy-1-methyl-ethoxy]-N-(5-methylpyrazin-2-yl)propanamide | 2.23 g, 85% | ClC1=C(C(=CC=C1)C#N)N1N=CC=2C(=NC=NC21)O[C@H](C(=O)NC2=NC=C(N=C2)C)CO[C@@H](CO)C | C23H21ClN8O4
